US04251398
(b) 4-cyclohexyl-pentanolide
3-Cyclohexyl-cyclopentanone used hereinabove as starting material was prepared as indicated hereinafter: 16.6 g (0.148 Mole) of cyclohexyl chloride were added dropwise to 3.6 g (0.150 atome-g) of magnesium metal in a 250 ml vessel, under nitrogen atmosphere and in the presence of a iodine cristal. The reaction mixture was heated to reflux for 1 hour, then cooled to 0° and 1.42 g (0.074 Mole) of cuprous iodide were added thereto. After cooling the reaction mixture at -8°, 5.74 g (0.070 Mole) of cyclopent-2-ene-1-one in 40 ml of tetrahydrofurane were added dropwise. After having been stirred for 1 hour at -8°, the reaction mixture was poured onto 100 g of crushed ice, acidified with 15% HCl in water (pH 4-5) and finally neutralized by the addition of aqueous ammonia. After the addition of 10 g of NH4Cl the reaction mixture was extracted with ether (3×300 ml), washed with water (3×100 ml), dried over sodium sulfate and finally evaporated to afford 13.2 g of raw material. After purification by means of column chromatography (neutral Al2O3 --eluent:toluene) and subsequent distillation on a VIGREUX column, there were obtained 7.0 g (60% yield) of the desired product, b.p. 50°/0.005 Torr.

reactant | 3-Cyclohexyl-cyclopentanone | C1(CCCCC1)C1CC(CC1)=O | C11H18O
reactant | cyclohexyl chloride | 0.148 Mole, 16.6 g | C1(CCCCC1)Cl | C6H11Cl
reactant | magnesium | 3.6 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | cyclopent-2-ene-1-one | 0.070 Mole, 5.74 g | C1(C=CCC1)=O | C5H6O
reactant | HCl | Cl | ClH
reactant | ammonia | N | H3N
reactant | NH4Cl | 10 g | [NH4+].[Cl-]
solvent | tetrahydrofurane | 40 ml | O1CCCC1 | C4H8O
solvent | water | pH 4-5 | O | H2O
product | 4-cyclohexyl-pentanolide | 7.0 g, 60% yield | C1(CCCCC1)C1CCC(=O)OC1 | C11H18O2
